US08198295B2
8. (3.4-Dimethoxy-phenyl)-acetic acid 3-({1-[4-((4aR,10bS)-9-ethoxy-8-methoxy-2-methyl-1,2,3,4,4a.10b-hexahydro-benzo[c][1,6]naphthyridin-6-yl)-phenyl]-methanoyl}-isopropyl-amino)-butyl ester
Prepared from 4-((4aR,10bS)-9-ethoxy-8-methoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]-naphthyridin-6yl)benzoic acid and rac-3,4-dimethoxy-phenyl)-acetic acid 3-isopropylamino-butyl ester as described for example 1.

reactant | 4-((4aR,10bS)-9-ethoxy-8-methoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]-naphthyridin-6yl)benzoic acid | C(C)OC1=CC2=C(C(=N[C@@H]3CCN(C[C@H]23)C)C2=CC=C(C(=O)O)C=C2)C=C1OC | C23H26N2O4
reactant | acetic acid 3-isopropylamino-butyl ester | C(C)(C)NC(CCOC(C)=O)C | C9H19NO2
product | (3.4-Dimethoxy-phenyl)-acetic acid 3-({1-[4-((4aR,10bS)-9-ethoxy-8-methoxy-2-methyl-1,2,3,4,4a.10b-hexahydro-benzo[c][1,6]naphthyridin-6-yl)-phenyl]-methanoyl}-isopropyl-amino)-butyl ester | C(C)OC1=CC2=C(C(=N[C@@H]3CCN(C[C@H]23)C)C2=CC=C(C=C2)C(=O)N(C(CCOC(CC2=CC(=C(C=C2)OC)OC)=O)C)C(C)C)C=C1OC | C40H51N3O7
